US07727988B2
1-(3,3-Diethoxy-propyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carbonitrile (Prep34)
(2-Cyano-3-ethoxy-acryloyl)-carbamic acid ethyl ester (Prep 33, 300 mg, 1.42 mmol) was suspended in water (20 mL); 3,3-diethoxypropylamine (460 μl, 2.84 mmol) was added and the mixture warmed at 80° C. for 10 minutes. The reaction mixture was lyophilized and the residue was purified by flash chromatography with petroleum ether-ethyl acetate (1-1) to give 350 mg of the title compound (91% yield)

reactant | (2-Cyano-3-ethoxy-acryloyl)-carbamic acid ethyl ester | 1.42 mmol, 300 mg | C(C)OC(NC(C(=COCC)C#N)=O)=O | C9H12N2O4
reactant | 3,3-diethoxypropylamine | 2.84 mmol, 460 μl | C(C)OC(CCN)OCC | C7H17NO2
solvent | water | 20 mL | O | H2O
product | 1-(3,3-Diethoxy-propyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carbonitrile | 350 mg, 91% yield | C(C)OC(CCN1C(NC(C(=C1)C#N)=O)=O)OCC | C12H17N3O4
